US03962377
6-tert.-Butyl-2,3-dimethyl-4-(dimethylaminomethyl)phenol
To 142.4 grams of 6-tert.-butyl-2,3-dimethylphenol dissoled in 270 ml of toluene was added 144.4 grams of a 25% aqueous solution of dimethylamine at about room temperature. 65.7 grams of 36.5% aqueous formaldehyde was then added over a 10 minute period to the reaction mixture initially at 15°, the temperature rising to 30° at the end of the addition. The reaction mixture was then warmed to 40° for 3 hours and finally heated at reflux (85°) for 2 hours. The reaction was diluted with about 1 liter of ether and the aqueous layer separated, the upper ether layer being washed three times with water. After drying over sodium sulfate, the organic phase was stripped to dryness at reduced pressures yielding 176.3 grams of crude product. The crude product was crystallized from heptane, yielding white crystals melting at 101 to 104°.

reactant | 6-tert.-butyl-2,3-dimethylphenol | 142.4 grams | C(C)(C)(C)C1=CC=C(C(=C1O)C)C | C12H18O
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | 65.7 grams | C=O | CH2O
solvent | toluene | 270 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | about 1 liter | CCOCC | C4H10O
product | 6-tert.-Butyl-2,3-dimethyl-4-(dimethylaminomethyl)phenol | C(C)(C)(C)C1=CC(=C(C(=C1O)C)C)CN(C)C | C15H25NO
